US07435735B2
Step 2: [[2-(Methoxymethylamino)-2-oxoethyl][(phenylmethoxy)carbonyl]amino]-acetic acid
To a solution of N-[(benzyloxy)carbonyl]-N-(carboxymethyl)glycine (28.45 g, 106.46 mmol) in DMF (163 mL) was added EDC (24.08 g, 125.62 mmol). The solution was cooled to 0° C. and treated with a mixture of N-methoxymethylamine hydrochloride (12.25 g, 125.62 mmol) and Hunig's base (21.88 mL, 125.62 mmol) in DMF (55 mL). The reaction was stirred at room temperature overnight and poured over a mixture of ice and aqueous 10% HCl solution. The mixture was extracted twice with EtOAc. The combined organics were washed twice with aqueous 10% HCl solution and once with brine, dried over Na2SO4, filtered, and concentrated in vacuo to afford a crude oil which was suspended in saturated aqueous NaHCO3 solution. The mixture was washed with EtOAc, adjusted to pH 2 with aqueous 1N HCl, and extracted three times with EtOAc. The final three organic extracts were combined, dried over MgSO4, filtered, and concentrated in vacuo to afford the product as a golden oil.

reactant | N-[(benzyloxy)carbonyl]-N-(carboxymethyl)glycine | 106.46 mmol, 28.45 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)CC(=O)O | C12H13NO6
reactant | EDC | 125.62 mmol, 24.08 g
reactant | N-methoxymethylamine hydrochloride | 125.62 mmol, 12.25 g | Cl.COCN
reactant | Hunig's base | 125.62 mmol, 21.88 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | Cl | ClH
solvent | DMF | 163 mL | CN(C)C=O | C3H7NO
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | [[2-(Methoxymethylamino)-2-oxoethyl][(phenylmethoxy)carbonyl]amino]-acetic acid | COCNC(CN(C(=O)OCC1=CC=CC=C1)CC(=O)O)=O | C14H18N2O6
